US06894042B2
Hydroxylamine hydrochloride (153 mg, 2.2 mmol) is free based for 5 min in 2N NaOH (1.1 ml, 2.2 mmol) and added drop-wise to a solution of methyl 2-formyl-1-benzofuran-6-carboxylate (408 mg, 2.0 mmol) in EtOH (6 ml). The reaction is stirred overnight and the volatiles are removed in vacuo. The residue is suspended in water (5 ml) and the slurry is filtered. The cake is dried overnight to afford 399 mg (91%) of E/Z-methyl 2-[(hydroxyimino)methyl]-1-benzofuran-6-carboxylate as a light brown solid. HRMS (FAB) calcd for C11H9NO4+H: 220.0610, found 220.0602 (M+H)+.

reactant | Hydroxylamine hydrochloride | 2.2 mmol, 153 mg | Cl.NO
reactant | NaOH | 2.2 mmol, 2N, 1.1 ml | [OH-].[Na+]
reactant | methyl 2-formyl-1-benzofuran-6-carboxylate | 2.0 mmol, 408 mg | C(=O)C=1OC2=C(C1)C=CC(=C2)C(=O)OC | C11H8O4
solvent | EtOH | 6 ml | CCO | C2H6O
product | Z-methyl 2-[(hydroxyimino)methyl]-1-benzofuran-6-carboxylate | O\N=C/C=1OC2=C(C1)C=CC(=C2)C(=O)OC | C11H9NO4
